US08048901B2
Ethyl 3-[2-(2-methoxyethoxy)-5-nitropyridin-4-yl]-2-oxopropionate potassium salt
1.86 g of potassium are initially charged in 120 ml of dry diethyl ether, and 15 ml of EtOH are added slowly. The mixture is cooled to 0° C. 5 g of 2-(2-methoxyethoxy)-4-methyl-5-nitropyridine are dissolved in 15 ml of dry ether and 3 ml of EtOH and added. 27.5 g of diethyl oxalate were dissolved in 100 ml of toluene and, at 0° C., added dropwise over a period of 45 min. The mixture is stirred at room temperature for 24 h. The precipitate is allowed to settle, the mixture is filtered and the precipitate is washed with ether/n-heptane 1:1. The precipitate is dried under high vacuum. This gives ethyl 3-[2-(2-methoxyethoxy)-5-nitropyridin-4-yl]-2-oxopropionate potassium salt as a red solid. (LC-MS protonate form) C13H16N2O7 (312.28), MS (ESI): 313 (M+H+).

reactant | potassium | 1.86 g | [K] | K
reactant | EtOH | 15 ml | CCO | C2H6O
reactant | 2-(2-methoxyethoxy)-4-methyl-5-nitropyridine | 5 g | COCCOC1=NC=C(C(=C1)C)[N+](=O)[O-] | C9H12N2O4
reactant | EtOH | 3 ml | CCO | C2H6O
reactant | diethyl oxalate | 27.5 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | diethyl ether | 120 ml | C(C)OCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-[2-(2-methoxyethoxy)-5-nitropyridin-4-yl]-2-oxopropionate potassium salt | [K].COCCOC1=NC=C(C(=C1)CC(C(=O)OCC)=O)[N+](=O)[O-] | InChI=1S/C13H16N2O7.K/c1-3-21-13(17)11(16)6-9-7-12(22-5-4-20-2)14-8-10(9)15(18)19;/h7-8H,3-6H2,1-2H3;
